Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
aneurysm 
 
Major Surgical or Invasive Procedure:
___ Pipeline embolization of aneurysm 

 
History of Present Illness:
___ yo M with basilar aneurysm incidentally discovered after 
fall. He underwent a diagnostic angiogram a few months ago. He 
presents for intervention. Found to be a Plavix non responder so 
will be loaded with brilinta prior to embolization. 
 
Past Medical History:
CABG
COPD
Arthritis
Obesity

 
Social History:
___
Family History:
He has no family history of intracranial aneurysms or
subarachnoid hemorrhage.

 
Physical Exam:
Upon discharge: 

Opens eyes: [X]spontaneous [ ]to voice [ ]to noxious

Orientation: [X]Person [X]Place [X]Time

Follows commands: [ ]Simple [X]Complex [ ]None

Pupils: 2.5 Bilaterally equal and reactive 

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right 5          5     5        5      5      
Left 5          5     5        5      5

Right upper extremity tremor   

IPQuadHamATEHLGast
Right 5        5      5       5       5        5
Left 5        5      5       5       5        5 

[x]Sensation intact to light touch

Angio Groin Site: [x]Soft, no hematoma  [x]Palpable pulses
Left groin 

 
Pertinent Results:
Please see OMR for pertinent results 
 
Brief Hospital Course:
#Basilar Aneurysm
Patient was admitted for an elective pipeline embolization of 
known aneurysm. Procedure was successful and uncomplicated. He 
was maintained on ASA and Brilinta after the procedure. He was 
extubated and recovered in PACU. POD#1 he was neurologically 
intact. Foley was removed and he was voiding without difficulty. 
He was tolerating a diet and mobilizing. His pain was well 
controlled. He was discharged home in good condition with 
instructions for follow up. 
 
Medications on Admission:
aspirin 325 mg daily, simvastatin 40 mg
daily, Spiriva, ProAir, metoprolol 25 mg p.o. b.i.d., and
diltiazem 240 mg extended daily, tizanidine 4 mg daily and 
Flomax
0.4 mg daily, finasteride 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*12 
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
4.  Chantix (varenicline) 1 mg oral BID  
5.  Diltiazem Extended-Release 240 mg PO DAILY  
6.  Finasteride 5 mg PO DAILY  
7.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
8.  Metoprolol Succinate XL 12.5 mg PO BID  
9.  Simvastatin 40 mg PO QPM  
10.  Tamsulosin 0.4 mg PO QHS  
11.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Basilar Aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•It is very important to take the medication your doctor ___ 
prescribe for you to keep your blood thin and slippery. This 
will prevent clots from developing and sticking to the stent.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.
Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•The medication may make you bleed or bruise easily.
•Fatigue is very normal.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___